US07678803B2
To 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.104 g, 1.2 eq) in dimethylacetamide (3 mL), sodium hydride (14.4 mg, 1.2 eq) is added slowly and stirred at RT for 0.5 h. Then 1-(1-amino-6-fluoro-isoquinolin-4-yl)-ethanone (0.1 g, 1 eq) is added and stirred at 150° C. overnight. The reaction mixture is poured into Sat'd NH4Cl aq. (200 mL), extracted by EtOAc (3×100 mL), dried over Na2SO4, filtered, concentrated to give a crude product. That is purified by Biotage chromatography, eluted by 50-100% EtOAc in Hexanes to give 1-(4-acetyl-1-amino-isoquinolin-6-yl)-3,6,6 trimethyl-1,5,6,7-tetrahydro-indol-4-one (48.1 mg, 27%). LC/MS m/z=362 [M+H]+.

reactant | 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.104 g, 1.2 eq | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | sodium hydride | 14.4 mg, 1.2 eq | [H-].[Na+]
reactant | 1-(1-amino-6-fluoro-isoquinolin-4-yl)-ethanone | 0.1 g, 1 eq | NC1=NC=C(C2=CC(=CC=C12)F)C(C)=O | C11H9FN2O
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | 1-(4-acetyl-1-amino-isoquinolin-6-yl)-3,6,6 trimethyl-1,5,6,7-tetrahydro-indol-4-one | 48.1 mg, 27% | C(C)(=O)C1=CN=C(C2=CC=C(C=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)N | C22H23N3O2
